US08168821B2
Methyl 4-((4E)-5-{2-[(4-tert-butylbenzyl)oxy]phenyl}-3-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-ethyl}pent-4-en-1-yl)benzoate
134.6 mg (0.59 mmol) of 4-(tert-butyl)benzyl bromide and 163.8 mg (1.18 mmol) of anhydrous potassium carbonate are added to a solution of 178 mg (0.395 mmol) of methyl 4-[(4E)-3-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-5-(2-hydroxyphenyl)pent-4-en-1-yl]benzoate in 5 ml of dry acetonitrile, and the mixture is heated under reflux for 12 hours. The mixture is then concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. The organic phase is concentrated. The crude product obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1). This gives 130.6 mg (55% of theory) of a solid.

reactant | 4-(tert-butyl)benzyl bromide | 0.59 mmol, 134.6 mg | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | potassium carbonate | 1.18 mmol, 163.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-[(4E)-3-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-5-(2-hydroxyphenyl)pent-4-en-1-yl]benzoate | 0.395 mmol, 178 mg | C(C)OC(CC1(CC1)CCC(CCC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O)=O | C28H34O5
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | Methyl 4-((4E)-5-{2-[(4-tert-butylbenzyl)oxy]phenyl}-3-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-ethyl}pent-4-en-1-yl)benzoate | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CCC2=CC=C(C(=O)OC)C=C2)CCC2(CC2)CC(=O)OCC)C=C1 | C39H48O5
